US07220777B2
5-Chloro-2-nitrobenzoic acid [Aldrich] (600 mg, 3 mmol) was suspended in dichloromethane (5 ml) and treated with oxalyl chloride (2 ml) and DMF (1 drop). On stirring, an immediate effervescence occurred which ceased after 1 hour. The solvent was removed in vacuo and the residue dissolved in dichloromethane (10 ml) and treated successively with DIEA resin (3.1 mmol/g, 1.95 g) and 3-methoxy-4-(2-pyrrolidin-1-yl-ethoxy)-phenylamine (650 mg, 3 mmol). The mixture was stirred at RT for 16 hours then filtered, evaporated, and the residue purified by flash chromatography (methanol-dichloromethane-aqueous ammonia) to afford 5-chloro-N-[3-methoxy-4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-2-nitro-benzamide as a yellow foam;

reactant | 5-Chloro-2-nitrobenzoic acid | 3 mmol, 600 mg | ClC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C7H4ClNO4
reactant | oxalyl chloride | 2 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DIEA | 1.95 g | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-methoxy-4-(2-pyrrolidin-1-yl-ethoxy)-phenylamine | 3 mmol, 650 mg | COC=1C=C(C=CC1OCCN1CCCC1)N | C13H20N2O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
product | 5-chloro-N-[3-methoxy-4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-2-nitro-benzamide | ClC=1C=CC(=C(C(=O)NC2=CC(=C(C=C2)OCCN2CCCC2)OC)C1)[N+](=O)[O-] | C20H22ClN3O5
